US04942245
(a) 4-(4-Acetyl-3-hydroxy-2-propylphenylthio)butylbromide
To a refluxing mixture of 1.4-dibromobutane (32.9 g), anhydrous potassium carbonate (5.25 g) and potassium iodide (1 g) in acetone (100 ml) was added dropwise a solution of 2'-hydroxy-4'-mercapto-3'-propylacetophenone (8.00 g) in acetone (20 ml) during an hour and refluxed for 2 hours. The mixture was filtered off and the solvent was evaporated. The resulting residue was purified by silica gel column chromatography, eluting with benzene, to give the title compound (6.90 g, 52.6 %) as yellow oil.

reactant | 1.4-dibromobutane | 32.9 g | BrCCCCBr | C4H8Br2
reactant | potassium carbonate | 5.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1 g | [I-].[K+]
reactant | 2'-hydroxy-4'-mercapto-3'-propylacetophenone | 8.00 g | OC1=C(C=CC(=C1CCC)S)C(C)=O | C11H14O2S
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 4-(4-Acetyl-3-hydroxy-2-propylphenylthio)butylbromide | 6.90 g, 52.6 % | C(C)(=O)C1=C(C(=C(C=C1)SCCCCBr)CCC)O | C15H21BrO2S
